US07345056B2
To a solution of 9-(4-chloro-benzenesulfonyl)-6-hydroxymethylene-7-oxo-9-aza-bicyclo[3.3.1]nonane-3-carboxylic acid ethyl ester (2.48 g, 5.99 mmol) in ethanol (10 mL) was added glacial acetic acid (0.2 mL) followed by hydrazine monohydrate (2.9 mL, 59.9 mmol). The reaction mixture was stirred at room temperature for 1 h after which saturated NaHCO3 (10 mL) was added. The resulting solution was extracted with EtOAc (3×20 mL), the organic extracts were combined, dried (Na2SO4), filtered, concentrated and purified by silica gel column chromatography (eluant hexane/EtOAc, 9/1 to 1/1) and preparative HPLC to give 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-10-carboxylic acid ethyl ester as a white solid. Retention time (min)=1.739, method [1],MS(ESI) 410.1 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.66 (d, J=8.2 Hz, 2H), 7.51 (s, 1H), 7.38 (d, J=8.2 Hz, 2H), 5.37 (bs, 1H), 4.61-4.55 (m, 1H), 4.09 (q, J=7.1 Hz, 2H), 3.04 (dd, J=17.6, 7.1 Hz, 1H), 2.67 (d, J=17.6 Hz, 1H), 2.48-2.31 (m, 1H), 2.11-1.91 (m, 4H), 1.20 (t, J=7.1 Hz, 3H).

reactant | 9-(4-chloro-benzenesulfonyl)-6-hydroxymethylene-7-oxo-9-aza-bicyclo[3.3.1]nonane-3-carboxylic acid ethyl ester | 5.99 mmol, 2.48 g | C(C)OC(=O)C1CC2CC(C(C(C1)N2S(=O)(=O)C2=CC=C(C=C2)Cl)=CO)=O | C18H20ClNO6S
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
reactant | hydrazine monohydrate | 59.9 mmol, 2.9 mL | O.NN
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 12-(4-chloro-benzenesulfonyl)-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene-10-carboxylic acid ethyl ester | C(C)OC(=O)C1CC2CC=3NN=CC3C(C1)N2S(=O)(=O)C2=CC=C(C=C2)Cl | C18H20ClN3O4S
